US07745641B2
In a similar manner to Step 2 of Example 6, 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (42.6 mg, 0.104 mmol) was dissolved in acetonitrile (2 mL), and the solution was treated with 2-piperadinone (42 mg, 0.42 mmol), acetic acid (0.120 mL, 2.10 mmol) and sodium triacetoxyborohydride (46 mg, 0.22 mmol). The reaction mixture was added with water and sodium carbonate to adjust the pH to 9. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(3-oxopiperazin-1-ylmethyl)indol-2-yl]isoindolinone (55.6 mg).

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.104 mmol, 42.6 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H19ClN2O4
reactant | 2-piperadinone | 0.42 mmol, 42 mg | N1C(CCCC1)=O | C5H9NO
reactant | acetic acid | 2.10 mmol, 0.120 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.22 mmol, 46 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(3-oxopiperazin-1-ylmethyl)indol-2-yl]isoindolinone | 55.6 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CC(NCC1)=O)C(=O)OC(C)(C)C)=O | C26H27ClN4O4
